US07335648B2
1-{9-[6-(3-Hydroxy-pyridin-2-yloxymethyl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-3-phenyl-urea
Dry argon was bubbled through a solution of 1-{9-[6-(3-Benzyloxy-pyridin-2-yloxymethyl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-3-phenyl-urea (18 mg, 0.03 mmol, prepared as above) in methanol/ethyl acetate (1:1 v/v, 10 mL) at 23° C. for 10 min. Palladium on activated carbon (10%) was added and the suspension was degassed by argon for another 5 min. Hydrogen (H2) was conducted to the solution via a balloon, and the reaction proceeded for 5 h. The mixture was filtered and concentrated in vacuo to give the crude product. Preparative reverse-phase HPLC was used to obtain the pure compound (5 mg, 31% yield) as a white solid. MW calculated for C25H25N7O6 (MH+) 520, found 520 by LCMS.

reactant | 1-{9-[6-(3-Benzyloxy-pyridin-2-yloxymethyl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-3-phenyl-urea | 0.03 mmol, 18 mg | C(C1=CC=CC=C1)OC=1C(=NC=CC1)OCC1OC(C2C1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)NC(=O)NC2=CC=CC=C2 | C32H31N7O6
solvent | methanol ethyl acetate | 10 mL | CO.C(C)(=O)OCC
catalyst | Palladium on activated carbon | [Pd] | Pd
product | 1-{9-[6-(3-Hydroxy-pyridin-2-yloxymethyl)-2,2-dimethyl-tetrahydro-furo[3,4-d][1,3]dioxol-4-yl]-9H-purin-6-yl}-3-phenyl-urea | 5 mg, 31% yield | OC=1C(=NC=CC1)OCC1OC(C2C1OC(O2)(C)C)N2C1=NC=NC(=C1N=C2)NC(=O)NC2=CC=CC=C2 | C25H25N7O6
